US07642264B2
2-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid amide
To a cooled and stirred solution of N-tert-butyl-2-{1-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonamide (0.23 g) in dichloromethane (4 mL) was added TFA (4 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and purified by flash-chromatography on silica gel (ethyl acetate/hexane) and crystallization (dichloromethane) to yielded the title compound as a light brown solid (0.028 g, 6%). MS (ISP) 467.1 [(M+H)+]; mp 230° C.

reactant | N-tert-butyl-2-{1-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonamide | 0.23 g | C(C)(C)(C)NS(=O)(=O)C1=CN=C(S1)C=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C21H20Cl2N6O2S2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-{1-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-thiazole-5-sulfonic acid amide | 0.028 g, 6% | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)N1C=NC(=C1)C=1SC(=CN1)S(=O)(=O)N | C17H12Cl2N6O2S2
